US08212041B2
tert-butyl 2-(3-(2-methoxyethoxy)quinolin-6-yl)acetate
To a suspension of tert-butyl 2-(3-hydroxyquinolin-6-yl)acetate (0.1 g, 0.4 mmol) in benzene (5 mL) was added 2-methoxyethanol (0.09 ml, 1 mmol) and tri-n-butylphosphine (0.1 ml, 0.6 mmol). The resulting mixture was cooled to 0° C. followed by adding 1.1′-(azodicarbonyl)dipiperidine (0.1 g, 0.6 mmol). After 10 min, ice bath was removed; the reaction mixture was warmed up to rt. After 2 h, TLC showed there still existed 50% starting material. More methoxymethanol (2 eq, 0.06 mL) was added. The reaction mixture was continued to stir for 20 h. Hexane was added to the reaction mixture and dihydro-ADDP separated out was filtered off. The filtrate was concentrated. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, P/N 68-2203-027, 40 g SiO2, hexane:acetone=85%:15%, Flow=40 mL/min) to afford the desired product as colorless liquid. MS m/z: 318.4 (M+H). Calc'd. for C18H23NO4—317.38.

reactant | tert-butyl 2-(3-hydroxyquinolin-6-yl)acetate | 0.4 mmol, 0.1 g | OC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C15H17NO3
reactant | 2-methoxyethanol | 1 mmol, 0.09 ml | COCCO | C3H8O2
reactant | tri-n-butylphosphine | 0.6 mmol, 0.1 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1.1′-(azodicarbonyl)dipiperidine | 0.6 mmol, 0.1 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | methoxymethanol | 0.06 mL, 2 eq | COCO | C2H6O2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | Hexane | CCCCCC | C6H14
product | tert-butyl 2-(3-(2-methoxyethoxy)quinolin-6-yl)acetate | COCCOC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C18H23NO4
